US07351857B2
To a stirred suspension of 60% NaH (6 g; 0.182 mmol) in DMF (400 mL) is added 6-methoxy-1,2,3,4-tetrahydronaphthalen-2-ylamine (30 g; 0.140 mol), portionwise at 0° C. The reaction mixture is warmed to RT and stirred for an additional 1 h. Phthalic anhydride (20.7 g; 0.139 mol) is added in 1-portion at RT, upon which the reaction mixture is stirred for an additional 1 h followed by 18 h at 120° C. The reaction was allowed to cool to RT, diluted with H2O and extracted several times with EtOAc. The combined organic extracts are washed with water, brine, dried over Na2SO4, and the solvent removed under reduced pressure. The crude solid was triturated with MeOH, filtered, and dried under vacuo to afford 29.1 g (67%) of 2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)isoindole-1,3-dione as an off-white solid.

reactant | NaH | 0.182 mmol, 6 g | [H-].[Na+]
reactant | 6-methoxy-1,2,3,4-tetrahydronaphthalen-2-ylamine | 0.140 mol, 30 g | COC=1C=C2CCC(CC2=CC1)N | C11H15NO
reactant | Phthalic anhydride | 0.139 mol, 20.7 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)isoindole-1,3-dione | 29.1 g, 67% | COC=1C=C2CCC(CC2=CC1)N1C(C2=CC=CC=C2C1=O)=O | C19H17NO3
